US08383644B2
(S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester
(S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester hydrochloride (60 g), di-t-butyl dicarbonate (61 g) and NaHCO3 (46.4 g) were combined with 0.5 L each of EtOAc and water. The mixture was stirred 18 hours at r.t., then the aqueous layer was discarded. The organic layer was washed with 200 mL 1N HCl, then 200 mL of water, then was dried over Na2SO4 and evaporated to an oil. The oil was taken up in diethyl ether, precipitated with hexanes and collected by filtration, to give 75 g (quantitative) desired product after drying under vacuum. 1H NMR (400 MHz, CDCl3): 6.67 (s, 1H), 6.63 (d, 1H), 6.56 (s, 1H), 5.12-5.08 and 4.73-4.69 (m, 1H), 4.56-4.48 (m, 1H), 4.42-4.30 (m, 1H), 3.67 and 3.60 (s, 3H), 3.13-2.95 (m, 2H), 1.51 and 1.46 (s, 9H).

reactant | (S)-6,7-Dihydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester hydrochloride | 60 g | Cl.COC(=O)[C@H]1NCC2=CC(=C(C=C2C1)O)O
reactant | di-t-butyl dicarbonate | 61 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 46.4 g | C(=O)(O)[O-].[Na+]
reactant | EtOAc | 0.5 L | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (S)-6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)O)O)C(=O)OC(C)(C)C | C16H21NO6
